US09289419B2
Synthesis of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(1-sulfamoylpiperidin-4-yl)pyrazolo[1,5-a]pyridine-3-carboxamide
Sulfamide (9 mg, 0.093 mmol) was added to solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(piperidin-4-yl)pyrazolo[1,5-a]pyridine-3-carboxamide (25 mg, 0.058 mmol) (Example-32) in 1,4-Dioxane (0.5 mL) and stirring was continued at 110° C. for 4 h. The reaction mixture was concentrated to afford the residue, which was quenched with water, extracted with EtOAc, dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the crude. The crude product was purified by Preparative TLC (using Silicagel GF254, 1000 u coated 20×20 cm dimension glass plate and 10% MeOH in DCM as eluent) to afford 8 mg, of the title compound.

reactant | Sulfamide | 0.093 mmol, 9 mg | S(=O)(=O)(N)N | H4N2O2S
reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(piperidin-4-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | 0.058 mmol, 25 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)NC2CCNCC2 | C23H25F2N5O
solvent | 1,4-Dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(1-sulfamoylpiperidin-4-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)NC2CCN(CC2)S(N)(=O)=O | C23H26F2N6O3S
